US04475992
The procedure of Example 6 was repeated by using 250 mg of 2,6-dibutoxy-4-methoxy-4-methyl-2,5-cyclohexadienone and 20 mg of aluminum chloride, recovering 234 g of an oily crude product. The crude product was purified by silica gel column chromatography using a 20:1 benzene-ethyl acetate mixture, giving 217 mg of 2,6-dibutoxy-4-methylidene-2,5-cyclohexadienone in 87% of theoretical yield. The compound thus obtained was identified by NMR.

reactant | 2,6-dibutoxy-4-methoxy-4-methyl-2,5-cyclohexadienone | 250 mg | C(CCC)OC=1C(C(=CC(C1)(C)OC)OCCCC)=O | C16H26O4
reactant | aluminum chloride | 20 mg | [Cl-].[Al+3].[Cl-].[Cl-]
product | 2,6-dibutoxy-4-methylidene-2,5-cyclohexadienone | 217 mg | C(CCC)OC=1C(C(=CC(C1)=C)OCCCC)=O | C15H22O3
